US06878728B1
(3R,3aS,6aR)-Hexahydrofuro[2,3-b]furan-3-yl (1S,2R)-3-[(1,3-benzodioxol-5-ylsulfonyl)(isobutyl)amino]-2-hydroxy-1-[4-(3-{[(methylamino)carbonyl]oxy}propoxy)benzyl]propylcarbamate (320)
3-(4-{(2S,3R)-2-({[(3R,3aS,6aR)-Hexahydrofuro[2,3-b]furan-3-yloxy]carbonyl}amino)-4-[(1,3-benzodioxol-5-ylsulfonyl)(isobutyl)amino]-3-hydroxybutyl}phenoxy)propyl 4-nitrophenyl carbonate was treated with 2M methylamine/tetrahydrofuran as described above to provide the title compound as a white solid. 1H NMR (DMSO-d6): δ 0.78 (3H, d), 0.84 (3H, d), 1.1-1.2 (1H, m), 1.2 (1H, br quintuplet), 1.9-2.0 (3H, m), 2.17 (1H, t), 2.45 (3H, d), 2.6-2.8 (3H, m), 2.83-3.00 (2H, m), 3.4-3.6 (5H, m), 3.7 (1H, br s), 3.8 (1H, br s), 3.9 (2H, br s), 4.0 (2H, br s), 4.8-4.9 (1H, m), 5.0 (1H, d), 5.5 (1H, d), 6.17 (2H, s), 6.7-6.8 (2H, m), 6.9 (1H, br s), 7.0-7.1 (3H, m), 7.2-7.4 (3H, m); MS: 708 (MH+);

reactant | 3-(4-{(2S,3R)-2-({[(3R,3aS,6aR)-Hexahydrofuro[2,3-b]furan-3-yloxy]carbonyl}amino)-4-[(1,3-benzodioxol-5-ylsulfonyl)(isobutyl)amino]-3-hydroxybutyl}phenoxy)propyl 4-nitrophenyl carbonate | C(OCCCOC1=CC=C(C=C1)C[C@@H]([C@@H](CN(CC(C)C)S(=O)(=O)C1=CC2=C(OCO2)C=C1)O)NC(=O)O[C@H]1CO[C@H]2OCC[C@H]21)(OC2=CC=C(C=C2)[N+](=O)[O-])=O | C38H45N3O15S
reactant | methylamine tetrahydrofuran | 2M | CN.O1CCCC1
product | (3R,3aS,6aR)-Hexahydrofuro[2,3-b]furan-3-yl (1S,2R)-3-[(1,3-benzodioxol-5-ylsulfonyl)(isobutyl)amino]-2-hydroxy-1-[4-(3-{[(methylamino)carbonyl]oxy}propoxy)benzyl]propylcarbamate | O1COC2=C1C=CC(=C2)S(=O)(=O)N(C[C@H]([C@H](CC2=CC=C(C=C2)OCCCOC(=O)NC)NC(O[C@H]2CO[C@H]1OCC[C@H]12)=O)O)CC(C)C | C33H45N3O12S
